### ISSUE TITLE
(kernel) declaration type mismatch

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1081]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Steps to Reproduce

```lean
inductive Vector (α : Type u): Nat → Type u where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  def insert (a: α): Fin (n+1) → Vector α n → Vector α (n+1)
  | ⟨0  , _⟩,        xs => cons a   xs
  | ⟨i+1, h⟩, cons x xs => cons x $ xs.insert a ⟨i, Nat.lt_of_succ_lt_succ h⟩

  theorem insert_at_0_eq_cons (a: α) (v: Vector α n): 
    v.insert a ⟨0, Nat.zero_lt_succ n⟩ = cons a v := by
    simp only [insert]

  -- it works
  theorem insert_at_0_eq_cons₂ (a: α) (v: Vector α n): 
    v.insert a ⟨0, Nat.zero_lt_succ n⟩ = cons a v := by
    unfold insert
    split
    . rfl
    . have := Fin.val_eq_of_eq ‹_›
      contradiction
end Vector
```

**Expected behavior:** `insert_at_0_eq_cons` provable by `simp only[insert]` or `rfl`

**Actual behavior:** get error at `insert_at_0_eq_cons`:

```
(kernel) declaration type mismatch, 'Vector.insert_at_0_eq_cons' has type
  ∀ {α : Type u_1} {n : Nat} (a : α) (v : Vector α n), cons a v = cons a v
but it is expected to have type
  ∀ {α : Type u_1} {n : Nat} (a : α) (v : Vector α n), insert a { val := 0, isLt := (_ : 0 < Nat.succ n) } v = cons a v
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-03-29`

**Comment by leodemoura** [comment]
This is a bug in the "smart unfolding" feature. We are trying to fix it.
In the meantime, the `rw` tactic is a good workaround since it does not rely on the buggy feature
```lean

inductive Vector (α : Type u): Nat → Type u where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  def insert (a: α): Fin (n+1) → Vector α n → Vector α (n+1)
  | ⟨0  , _⟩,        xs => cons a   xs
  | ⟨i+1, h⟩, cons x xs => cons x $ xs.insert a ⟨i, Nat.lt_of_succ_lt_succ h⟩

  theorem insert_at_0_eq_cons1 (a: α) (v: Vector α n):  v.insert a ⟨0, Nat.zero_lt_succ n⟩ = cons a v :=
    rw [insert]
```
